US06451816B1
2-(4-{1-[bis(4-Fluorophenyl)-methyl]-piperidin-4-yl}-butyl)-isoindol-1,3-dione
23.1 g (62.5 mmol) 4-{1-[bis(4-fluorophenyl)-methyl]-piperidin-4-yl}-butan-1-ol, 16.4 g (62.5 mmol) triphenylphosphine and 9.2 g (62.5 mmol) phthalimide are suspended in THF and 10.9 g (62.5 mmol) azodicarboxylic acid diethyl ester is added dropwise under a protective atmosphere and light cooling (ca. 15-25° C.). The mixture is stirred for three hours at RT and subsequently the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with CH2Cl2/CH3OH (99.5/0.5) Yield: 27.6 g (90%).

reactant | 4-{1-[bis(4-fluorophenyl)-methyl]-piperidin-4-yl}-butan-1-ol | 62.5 mmol, 23.1 g | FC1=CC=C(C=C1)C(N1CCC(CC1)CCCCO)C1=CC=C(C=C1)F | C22H27F2NO
reactant | triphenylphosphine | 62.5 mmol, 16.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 62.5 mmol, 9.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | azodicarboxylic acid diethyl ester | 62.5 mmol, 10.9 g | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-{1-[bis(4-Fluorophenyl)-methyl]-piperidin-4-yl}-butyl)-isoindol-1,3-dione | FC1=CC=C(C=C1)C(N1CCC(CC1)CCCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)F | C30H30F2N2O2
